### PR TITLE
feat(LinearAlgebra/UnitaryGroup): Add properties of Special Unitary Group

### PR DESCRIPTION
**Pull request by jstoobysmith**
Add properties of the special unitary group, mirroring the properties of found in Algebra/Star/Unitary.lean. In particular, I add an instance of `specialUnitaryGroup` as a `Group`, `Star`, `InvolutiveStar`, and `StarMul`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/UnitaryGroup.lean [hunk 1]
```diff
@@ -216,6 +216,84 @@ theorem mem_specialUnitaryGroup_iff :
...
+theorem star_mem {U : Matrix n n α} (hU : U ∈ specialUnitaryGroup n α) :
+    star U ∈ specialUnitaryGroup n α :=
+  ⟨unitary.star_mem (mem_specialUnitaryGroup_iff.mp hU).1, star_det_of_mem hU⟩
+
+theorem star_mem_iff {U : Matrix n n α} :
+    star U ∈ specialUnitaryGroup n α ↔ U ∈ specialUnitaryGroup n α :=
+  ⟨fun h => star_star U ▸ star_mem h, star_mem⟩
+
+instance : Star (specialUnitaryGroup n α) :=
+  ⟨fun U => ⟨star U, star_mem U.prop⟩⟩
```
Comment (chrisflav) [inline Mathlib/LinearAlgebra/UnitaryGroup.lean:249]:
```suggestion
theorem star_mem_iff {U : Matrix n n α} :
    star U ∈ specialUnitaryGroup n α ↔ U ∈ specialUnitaryGroup n α :=
  ⟨fun h ↦ star_star U ▸ star_mem h, star_mem⟩

instance : Star (specialUnitaryGroup n α) :=
  ⟨fun U ↦ ⟨star U, star_mem U.prop⟩⟩
```
I think this is the preferred style.

File: Mathlib/LinearAlgebra/UnitaryGroup.lean [hunk 2]
```diff
@@ -216,6 +216,84 @@ theorem mem_specialUnitaryGroup_iff :
...
+  Subtype.ext <| coe_star_mul_self U
+
+@[simp]
+theorem mul_star_self (U : specialUnitaryGroup n α) : U * star U = 1 :=
+  Subtype.ext <| coe_mul_star_self U
+
+instance : Group (specialUnitaryGroup n α) :=
+  { Submonoid.toMonoid _ with
+    inv := star
+    mul_left_inv := star_mul_self }
```
Comment (chrisflav) [inline Mathlib/LinearAlgebra/UnitaryGroup.lean:272]:
```suggestion
instance : Group (specialUnitaryGroup n α) where
  inv := star
  mul_left_inv := star_mul_self
```

File: Mathlib/LinearAlgebra/UnitaryGroup.lean [hunk 3]
```diff
@@ -216,6 +216,84 @@ theorem mem_specialUnitaryGroup_iff :
...
+
+instance : InvolutiveStar (specialUnitaryGroup n α) :=
+  ⟨by
+    intro x
+    ext
+    rw [coe_star, coe_star, star_star]⟩
```
Comment (chrisflav) [inline Mathlib/LinearAlgebra/UnitaryGroup.lean:278]:
```suggestion
instance : InvolutiveStar (specialUnitaryGroup n α) :=
  star_involutive x := by
    ext
    rw [coe_star, coe_star, star_star]
```

File: Mathlib/LinearAlgebra/UnitaryGroup.lean [hunk 4]
```diff
@@ -216,6 +216,84 @@ theorem mem_specialUnitaryGroup_iff :
...
+
+instance : StarMul (specialUnitaryGroup n α) :=
+  ⟨by
+    intro x y
+    ext
+    rw [coe_star, Submonoid.coe_mul, Submonoid.coe_mul, coe_star, coe_star, star_mul]⟩
```
Comment (chrisflav) [inline Mathlib/LinearAlgebra/UnitaryGroup.lean:284]:
```suggestion
instance : StarMul (specialUnitaryGroup n α) :=
  star_mul x y := by
    ext
    rw [coe_star, Submonoid.coe_mul, Submonoid.coe_mul, coe_star, coe_star, star_mul]
```

File: Mathlib/LinearAlgebra/UnitaryGroup.lean [hunk 5]
```diff
@@ -216,6 +216,84 @@ theorem mem_specialUnitaryGroup_iff :
...
+  mul_star_self_of_mem U.prop
+
+@[simp]
+theorem star_mul_self (U : specialUnitaryGroup n α) : star U * U = 1 :=
+  Subtype.ext <| coe_star_mul_self U
+
+@[simp]
+theorem mul_star_self (U : specialUnitaryGroup n α) : U * star U = 1 :=
+  Subtype.ext <| coe_mul_star_self U
+
```
Comment (chrisflav) [inline Mathlib/LinearAlgebra/UnitaryGroup.lean:268]: Currently
```lean
example (U : specialUnitaryGroup n α) : U * star U = 1 := by
  simp
```
right after these lemmas fails because `simp` is running out of heartbeats. Changing `abbrev specialUnitaryGroup` to `def specialUnitaryGroup` fixes this. Maybe the other `abbrev`s in this file should also be `def`s?

File: Mathlib/LinearAlgebra/UnitaryGroup.lean [hunk 6]
```diff
@@ -216,6 +216,84 @@ theorem mem_specialUnitaryGroup_iff :
...
+instance : Inhabited (specialUnitaryGroup n α) :=
+  ⟨1⟩
+
+theorem star_eq_inv (U : specialUnitaryGroup n α) : star U = U⁻¹ :=
+  rfl
+
+theorem star_eq_inv' : (star : specialUnitaryGroup n α → specialUnitaryGroup n α) = Inv.inv :=
+  rfl
+
```
Comment (chrisflav) [inline Mathlib/LinearAlgebra/UnitaryGroup.lean:294]: Currently this
```lean
example (U : unitaryGroup n α) : U⁻¹ = (star U : Matrix n n α) := by
  simp
```
works, but
```lean
example (U : specialUnitaryGroup n α) : U⁻¹ = (star U : Matrix n n α) := by
  simp
```
does not. I am not sure what the correct behavior should be, but it should probably be consistent.

**Review by chrisflav — COMMENTED** [review]
I left some comments.

**Comment by jcommelin** [comment]
This PR looks mostly fine, but there are still some places where it needs some work. Are you planning to continue working on this PR? Would you like some help from others, or do you want to hand it over completely? (In the latter case, please label it with `please-adopt`.)

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

**Comment by joneugster** [comment]
Mathlib has moved to PRs from forks. This PR is still from a branch of the main repository and will soon be closed! Please migrate the content to a fork and reopen a PR from there if you wish to do so. See [Zulip topic](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/all.20future.20PRs.20should.20be.20made.20from.20forks/with/624081853) for more instructions. Thank you for contributing to mathlib!
